US07402693B2
The resultant tetramethyl cyclobutane-1,2,3,4-tetracarboxylate (1224 g, 4.25 mol) and aqueous hydrochloric acid (3000 ml) were added to a 5-liter flask; reacted at a controlled temperature of 85° C. for 24 hours; cooled to room temperature; concentrated; and dried to obtain cyclobutane-1,2,3,4-tetracarboxylic acid (870 g, 3.75 mol).

reactant | tetramethyl cyclobutane-1,2,3,4-tetracarboxylate | 4.25 mol, 1224 g | C1(C(C(C1C(=O)OC)C(=O)OC)C(=O)OC)C(=O)OC | C12H16O8
solvent | hydrochloric acid | 3000 ml | Cl | ClH
product | cyclobutane-1,2,3,4-tetracarboxylic acid | 3.75 mol, 870 g | C1(C(C(C1C(=O)O)C(=O)O)C(=O)O)C(=O)O | C8H8O8
